US05856503
11.5 g of 4-bromophenacyl bromide are dissolved in 250 ml of acetone and, after the addition of 5.75 g of potassium carbonate and 4.5 ml of 3-methoxyphenol, the reaction mixture is stirred and subsequently filtered. The filtrate is concentrated and the residue is chromatographed over silica gel with ethyl acetate/hexane (5:95 to 10:90). There are obtained 7.3 g of 1-(4-bromo-phenyl)-2-(3-methoxy-phenoxy)-ethanone, MS: m/e 320 (M+, 1 Br).

reactant | 4-bromophenacyl bromide | 11.5 g | BrC1=CC=C(C(CBr)=O)C=C1 | C8H6Br2O
reactant | potassium carbonate | 5.75 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-methoxyphenol | 4.5 ml | COC=1C=C(C=CC1)O | C7H8O2
solvent | acetone | 250 ml | CC(=O)C | C3H6O
product | 1-(4-bromo-phenyl)-2-(3-methoxy-phenoxy)-ethanone | 7.3 g | BrC1=CC=C(C=C1)C(COC1=CC(=CC=C1)OC)=O | C15H13BrO3
